US07081454B2
(S)-2-[6-Chloro-5-(6-imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-pyrimidin-4-ylamino]-3-phenyl-propan-1-ol:
To a solution of 2-(4,6-dichloro-pyrimidin-5-yl)-6-imidazol-1-yl-4-methyl-1H-benzimidazole (40 mg, 0.16 mmol) in isopropanol (5 mL) was added (S)-(−)-2-amino-3-phenyl-propanol (35 mg, 0.23 mmol) and triethylamine (0.5 mL). The reaction mixture was heated to 80° C. for 4 h, cooled to room temperature and concentrated with high vacuum. The crude product was used for the next step without purification. LCMS (M+H)+ m/z 460 (t=2.13 min.).

reactant | 2-(4,6-dichloro-pyrimidin-5-yl)-6-imidazol-1-yl-4-methyl-1H-benzimidazole | 0.16 mmol, 40 mg | ClC1=NC=NC(=C1C1=NC2=C(N1)C=C(C=C2C)N2C=NC=C2)Cl | C15H10Cl2N6
reactant | (S)-(−)-2-amino-3-phenyl-propanol | 0.23 mmol, 35 mg | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | (S)-2-[6-Chloro-5-(6-imidazol-1-yl-4-methyl-1H-benzimidazol-2-yl)-pyrimidin-4-ylamino]-3-phenyl-propan-1-ol | ClC1=C(C(=NC=N1)N[C@H](CO)CC1=CC=CC=C1)C1=NC2=C(N1)C=C(C=C2C)N2C=NC=C2 | C24H22ClN7O
